### PR TITLE
[Merged by Bors] - feat(NumberTheory/Padics/PadicVal/Basic): Locally square rational numbers are squares

### PR DESCRIPTION
**Pull request by chiyunhsu**
Co-authored-by: María Inés de Frutos-Fernández <midff@math.uni-bonn.de>

In the ongoing formalization of Hasse-Minkowski Theorem on quadratic forms, we need the fact that a non-negative rational number having even p-adic valuations for all prime p is a square. This is added as `isSquare_of_even_factorization` in the `Rat` namespace in NumberTheory/Padics/PadicVal/Basic.lean in the PR. Also add preliminary lemmas`num_or_den_zero_padicVal` `num_den_even_padicVal_of_even_padicVal`.

As preliminary results, add analogous theorems for natural numbers and integers `Nat.isSquare_of_even_factorization` `Int.isSquare_of_nonneg_of_even_factorization` in Data/Nat/Factorization/Defs.lean.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Factorization/Defs.lean [hunk 1]
```diff
@@ -190,8 +190,37 @@ theorem factorization_pow (n k : ℕ) : factorization (n ^ k) = k • n.factoriz
     rw [Nat.pow_succ, mul_comm, factorization_mul hn (pow_ne_zero _ hn), ih,
       add_smul, one_smul, add_comm]
 
+/-! ## Criterion for a natural number or integer being a square through even factorization -/
+
+/-- If for any `p`, the power of `p` in `n` is even, then `n` is a square. -/
+theorem isSquare_of_even_factorization {n : ℕ}
+    (h : ∀ (p : ℕ) [Fact (Prime p)], Even (n.factorization p)) : IsSquare n := by
```
Comment (loefflerd) [inline Mathlib/Data/Nat/Factorization/Defs.lean]: I'm not sure about the quantification over `Fact` instances here; I think `(h : ∀ p, Prime p → Even (n.factorization p))` is probably better (here & elsewhere in the PR). (Fact instances are ok if `p` is a parameter, I'm just concerned about using it for variables inside forall binders.)

File: Mathlib/Data/Nat/Factorization/Defs.lean [hunk 2]
```diff
@@ -190,8 +190,37 @@ theorem factorization_pow (n k : ℕ) : factorization (n ^ k) = k • n.factoriz
     rw [Nat.pow_succ, mul_comm, factorization_mul hn (pow_ne_zero _ hn), ih,
       add_smul, one_smul, add_comm]
 
+/-! ## Criterion for a natural number or integer being a square through even factorization -/
+
+/-- If for any `p`, the power of `p` in `n` is even, then `n` is a square. -/
+theorem isSquare_of_even_factorization {n : ℕ}
```
Comment (loefflerd) [inline Mathlib/Data/Nat/Factorization/Defs.lean]: The converse is true (and easy), so can we make this an `iff`?

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean [hunk 3]
```diff
@@ -169,6 +169,37 @@ theorem self (hp : 1 < p) : padicValRat p p = 1 := by simp [hp]
...
+/-- A nonnegative rational number with even `p`-adic valuation for all `p` is a square. -/
+theorem isSquare_of_even_factorization {a : ℚ} (hR : 0 ≤ a)
+    (hf : ∀ (p : ℕ) [Fact (Nat.Prime p)], Even (padicValRat p a)) : IsSquare a :=
+  isSquare_iff.mpr
+  ⟨Int.isSquare_of_nonneg_of_even_factorization (num_nonneg.mpr hR)
+    (fun p _ ↦ by simpa [Nat.factorization_def _ Fact.out, padicValInt] using
+    (num_den_even_padicVal_of_even_padicVal (hf p)).1),
+  Nat.isSquare_of_even_factorization
+    (fun p _ ↦ by simpa [Nat.factorization_def _ Fact.out] using
+    (num_den_even_padicVal_of_even_padicVal (hf p)).2)⟩
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/PadicVal/Basic.lean]: This is very long for a single proof term, can you break it up into tactics for readability?

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean [hunk 4]
```diff
@@ -169,6 +169,37 @@ theorem self (hp : 1 < p) : padicValRat p p = 1 := by simp [hp]
 
 end padicValRat
 
+namespace Rat
+
+/-- The numerator or denominator of a rational number has zero `p`-adic valuation. -/
+theorem num_or_den_zero_padicVal (a : ℚ) (p : ℕ) [Fact (Nat.Prime p)] :
+    padicValInt p a.num = 0 ∨ padicValNat p a.den = 0 := by
+  by_contra! h
+  apply not_not.mpr a.reduced
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/PadicVal/Basic.lean]:
```suggestion
  have h := a.reduced
  contrapose! h
```

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean [hunk 5]
```diff
@@ -169,6 +169,37 @@ theorem self (hp : 1 < p) : padicValRat p p = 1 := by simp [hp]
...
+  have h1 : p ∣ a.num.natAbs := not_not.mp (mt padicValNat.eq_zero_of_not_dvd h.1)
+  have h2 : p ∣ a.den := not_not.mp (mt padicValNat.eq_zero_of_not_dvd h.2)
+  exact (Nat.not_coprime_of_dvd_of_dvd (Nat.Prime.one_lt Fact.out) h1 h2)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/PadicVal/Basic.lean]: slight golf:
```suggestion
  apply not_coprime_of_dvd_of_dvd (Fact.out : p.Prime).one_lt <;>
  grind [padicValNat.eq_zero_of_not_dvd.mt h.1, padicValNat.eq_zero_of_not_dvd.mt h.2]
```
Perhaps one should add `padicValNat.dvd_of_ne_zero` to avoid some of the `mt`.

**Comment by chiyunhsu** [comment]
Thanks for the comments! I made the following changes in addition to direct code suggestions:

- Change all instances `[Fact (Prime p)]` into hypotheses `hp : p.Prime`
- Add the easier direction to form iff statements for the IsSquare theorems for `Nat`, `Int`, and `Rat`
- Move the `Rat` statements a block below because the easier direction uses `padicValRat.mul` in the same file
- Add the theorem `padicValNat.dvd_of_ne_zero` to prevent use of `mt`

**Comment by chiyunhsu** [comment]
-awaiting-author

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean [hunk 6]
```diff
@@ -373,6 +376,46 @@ theorem lt_sum_of_lt {p j : ℕ} [hp : Fact (Nat.Prime p)] {F : ℕ → ℚ} {S
...
+  rcases num_or_den_zero_padicVal a hp with (h0 | h0) <;>
+  simpa [h0, padicValRat_def] using h
+
+/-- A rational number is a square if and only if it is nonnegative,
+and has even `p`-adic valuation for all `p`. -/
+theorem isSquare_iff_even_factorization {a : ℚ} :
+    IsSquare a ↔ 0 ≤ a ∧ ∀ (p : ℕ), p.Prime → Even (padicValRat p a) := by
+  constructor
+  · refine fun ⟨r, hr⟩ ↦ ⟨by simpa [hr] using mul_self_nonneg r, fun p hp ↦ ?_⟩
+    let : Fact (p.Prime) := ⟨hp⟩
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Padics/PadicVal/Basic.lean]:
```suggestion
    have : Fact (p.Prime) := ⟨hp⟩
```
(Fact instances are propositions, not data, so they should be `have` rather than `let`)

**Review by loefflerd — APPROVED** [review]
LGTM now, just one tiny adjustment to finish

maintainer delegate

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean [hunk 7]
```diff
@@ -373,6 +376,46 @@ theorem lt_sum_of_lt {p j : ℕ} [hp : Fact (Nat.Prime p)] {F : ℕ → ℚ} {S
...
 
+namespace Rat
+
+/-- The numerator or denominator of a rational number has zero `p`-adic valuation. -/
+theorem num_or_den_zero_padicVal (a : ℚ) {p : ℕ} (hp : p.Prime) :
+    padicValInt p a.num = 0 ∨ padicValNat p a.den = 0 := by
+  have h := a.reduced
+  contrapose! h
+  apply not_coprime_of_dvd_of_dvd hp.one_lt <;>
+  grind [padicValNat.dvd_of_ne_zero h.1, padicValNat.dvd_of_ne_zero h.2]
```
Comment (Vierkantor) [inline Mathlib/NumberTheory/Padics/PadicVal/Basic.lean]: Since we continue the line with the `<;>`, it should be indented:
```suggestion
    grind [padicValNat.dvd_of_ne_zero h.1, padicValNat.dvd_of_ne_zero h.2]
```

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean [hunk 8]
```diff
@@ -373,6 +376,46 @@ theorem lt_sum_of_lt {p j : ℕ} [hp : Fact (Nat.Prime p)] {F : ℕ → ℚ} {S
...
+
+/-- The numerator and denominator of a rational number with even `p`-adic valuation
+also have even `p`-adic valuation. -/
+theorem num_den_even_padicVal_of_even_padicVal {a : ℚ} {p : ℕ} (hp : p.Prime)
+    (h : Even (padicValRat p a)) : Even (padicValInt p a.num) ∧ Even (padicValNat p a.den) := by
+  rcases num_or_den_zero_padicVal a hp with (h0 | h0) <;>
+  simpa [h0, padicValRat_def] using h
```
Comment (Vierkantor) [inline Mathlib/NumberTheory/Padics/PadicVal/Basic.lean]:
```suggestion
    simpa [h0, padicValRat_def] using h
```

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean [hunk 9]
```diff
@@ -373,6 +376,46 @@ theorem lt_sum_of_lt {p j : ℕ} [hp : Fact (Nat.Prime p)] {F : ℕ → ℚ} {S
 
 end padicValRat
 
+namespace Rat
+
+/-- The numerator or denominator of a rational number has zero `p`-adic valuation. -/
+theorem num_or_den_zero_padicVal (a : ℚ) {p : ℕ} (hp : p.Prime) :
+    padicValInt p a.num = 0 ∨ padicValNat p a.den = 0 := by
+  have h := a.reduced
+  contrapose! h
```
Comment (Vierkantor) [inline Mathlib/NumberTheory/Padics/PadicVal/Basic.lean:385]: This is a bit awkward, it would be nice if `contrapose! a.reduced with h` would work. Or if we had `Coprime.not_dvd_or_not_dvd` (to be the contrapositive of `not_coprime_of_dvd_of_dvd`). But either way, not really suitable for this PR.

**Review by Vierkantor — APPROVED** [review]
Thanks! Looks good with three minor comments (including David's).

bors d+
